US06288061B1
5-(4-Methylphenyl)-2-phenylimidazole-4-carboxylic acid (0.5 g) and 2-aminobenzothiazole (0.35 g) were reacted and treated in the same manner as in Example 1 to give N-(benzothiazol-2-yl)-5-(4-methylphenyl)-2-phenylimidazole-4-carboxamide (0.05 g), melting point 269-270° C.

reactant | 5-(4-Methylphenyl)-2-phenylimidazole-4-carboxylic acid | 0.5 g | CC1=CC=C(C=C1)C1=C(N=C(N1)C1=CC=CC=C1)C(=O)O | C17H14N2O2
reactant | 2-aminobenzothiazole | 0.35 g | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
product | N-(benzothiazol-2-yl)-5-(4-methylphenyl)-2-phenylimidazole-4-carboxamide | 0.05 g | S1C(=NC2=C1C=CC=C2)NC(=O)C=2N=C(NC2C2=CC=C(C=C2)C)C2=CC=CC=C2 | C24H18N4OS
